US09120788B2
Step 1. Synthesis of 2-fluoro-4-[(3-nitropyridin-2-yl)amino]benzonitrile (C14)
A mixture of 3-nitropyridin-2-amine (3.44 g, 24.7 mmol), 4-bromo-2-fluorobenzonitrile (4.95 g, 24.7 mmol), tris(dibenzylideneacetone)dipalladium(0) (226 mg, 0.247 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (XantPhos, 286 mg, 0.494 mmol) and cesium carbonate (32.3 g, 99.0 mmol) in 1,4-dioxane (124 mL) was degassed, placed under nitrogen and stirred at 100° C. for 30 minutes. The reaction mixture was filtered through a pad of Celite using tetrahydrofuran, and the filtrate was concentrated in vacuo. A 1:1 mixture of heptane and ethyl acetate was added to the residue, and the mixture was cooled in an ice/water bath. The solid was collected via filtration and washed with cold 1:1 heptane/ethyl acetate to afford the product as a gray solid. Yield: 6.2 g, 24 mmol, 97%. LCMS m/z 259.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 10.46 (br s, 1H), 8.60-8.63 (m, 2H), 8.16 (dd, J=11.8, 2.1 Hz, 1H), 7.59 (dd, J=8.5, 7.2 Hz, 1H), 7.40 (br dd, J=8.6, 2 Hz, 1H), 7.05-7.09 (m, 1H).

reactant | 3-nitropyridin-2-amine | 24.7 mmol, 3.44 g | [N+](=O)([O-])C=1C(=NC=CC1)N | C5H5N3O2
reactant | 4-bromo-2-fluorobenzonitrile | 24.7 mmol, 4.95 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.494 mmol, 286 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 99.0 mmol, 32.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 124 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.247 mmol, 226 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-fluoro-4-[(3-nitropyridin-2-yl)amino]benzonitrile | FC1=C(C#N)C=CC(=C1)NC1=NC=CC=C1[N+](=O)[O-] | C12H7FN4O2
